US04292431
To a suspension of 2.16 g (0.01 mol) of 1-phenyl-5-carbethoxyimidazole in 5 ml of water are added 0.8 g (0.02 mol) of sodium hydroxide and then 4 ml of ~37% aqueous formaldehyde. The mixture is heated at 80°-90° C. for 2 hours. The reaction mixture is concentrated in vacuo, and then the residue is extracted with ethyl acetate. The ethyl acetate extract is concentrated to give 1-phenyl-5-hydroxymethylimidazole as a solid, m.p. 81°-84° C.

reactant | 1-phenyl-5-carbethoxyimidazole | 0.01 mol, 2.16 g | C1(=CC=CC=C1)N1C=NC=C1C(=O)OCC | C12H12N2O2
reactant | sodium hydroxide | 0.02 mol, 0.8 g | [OH-].[Na+]
reactant | formaldehyde | 4 ml | C=O | CH2O
solvent | water | 5 ml | O | H2O
product | 1-phenyl-5-hydroxymethylimidazole | C1(=CC=CC=C1)N1C=NC=C1CO | C10H10N2O
